US05047411
A solution of 2-[2-(3-amino-4-hydroxyphenyl)ethyl]pyridine (3.2 g) and ethyl isocyanate (1.58 g) in ethanol (80 ml) was stirred at 35° to 40° C. for 2 hours. The reaction mixture was evaporated in vacuo and the residue was recrystallized from a mixture of ethyl acetate and diethyl ether to give 2-[2-{3-(3-ethylureido)-4-hydroxyphenyl}ethyl]pyridine (3.5 g).

reactant | 2-[2-(3-amino-4-hydroxyphenyl)ethyl]pyridine | 3.2 g | NC=1C=C(C=CC1O)CCC1=NC=CC=C1 | C13H14N2O
reactant | ethyl isocyanate | 1.58 g | C(C)N=C=O | C3H5NO
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-[2-{3-(3-ethylureido)-4-hydroxyphenyl}ethyl]pyridine | 3.5 g | C(C)NC(NC=1C=C(C=CC1O)CCC1=NC=CC=C1)=O | C16H19N3O2
